US07598232B2
(E)-2,4,6-trimethoxystyryl-3-(2-methyl-2-acetoxypropionamido)-4-methoxybenzylsulfone
A solution of 1-chlorocarbonyl-1-methylethyl acetate (10 mmol) and (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone (10 mmol) was reacted according to General Method A. The crude product obtained was purified by column chromatography to yield the desired product in 98% yield. (m.p. 148-150° C.)

reactant | 1-chlorocarbonyl-1-methylethyl acetate | 10 mmol | C(C)(=O)OC(C)(C)C(=O)Cl | C6H9ClO3
reactant | (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone | 10 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
product | (E)-2,4,6-trimethoxystyryl-3-(2-methyl-2-acetoxypropionamido)-4-methoxybenzylsulfone | 98% yield | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(C(C)(OC(C)=O)C)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(C(C)(C)OC(C)=O)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C50H60N2O16S
